US04153611
preparation of 1-(2-propynyl)-3-(5,6,7,8-tetrahydro-8-oxo-4H-cyclohepta[b]thien-4-yl)urea
A sample of 11 grams of carbonyl diimidazole in 50 ml. of methylene chloride is stirred and an equivalent amount of 5,6,7,8-tetrahydro-8-oxo-4H-cyclohepta[b]thiophen-4-amine in 50 ml. of methylene chloride is added. After one hour, 3.74 grams of propargylamine in 50 ml. of methylene chloride is added. The mixture is stirred at room temperature for 3 hours and the title compound is collected by filtration.

reactant | carbonyl diimidazole | 11 grams | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 5,6,7,8-tetrahydro-8-oxo-4H-cyclohepta[b]thiophen-4-amine | O=C1CCCC(C2=C1SC=C2)N | C9H11NOS
reactant | propargylamine | 3.74 grams | C(C#C)N | C3H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2-propynyl)-3-(5,6,7,8-tetrahydro-8-oxo-4H-cyclohepta[b]thien-4-yl)urea | C(C#C)NC(=O)NC1CCCC(C=2SC=CC21)=O | C13H14N2O2S
